US05338735
3-Methoxy benzothiophene 2-carboxylic acid (6.24 g) and carbonyl diimidazole (5.8 g) were dissolved in dry dichloromethane (200 ml) and stirred at room temperature for 2 hours. The solution was then added to a solution of ethylene diamine (9.0 g) in dichloromethane (50 ml) and the solution stirred overnight. After evaporation to dryness under vacuum, the residue was partitioned between ethyl acetate and water. The organic layer was extracted several times with 2N hydrochloric acid, the aqueous layer washed with ethyl acetate and then made basic with 0.88 ammonia solution. This was extracted with ethyl acetate (3×100 ml), washed with water, dried and evaporated to dryness under vacuum, to give 2-amino ethyl-3-methoxy benzothiophene-2-carboxamide.

reactant | 3-Methoxy benzothiophene 2-carboxylic acid | 6.24 g | COC1=C(SC2=C1C=CC=C2)C(=O)O | C10H8O3S
reactant | carbonyl diimidazole | 5.8 g | C(=O)(C=1NC=CN1)C=1NC=CN1 | C7H6N4O
reactant | ethylene diamine | 9.0 g | C(CN)N | C2H8N2
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 2-amino ethyl-3-methoxy benzothiophene-2-carboxamide | NCCC1=CC=CC2=C1C(=C(S2)C(=O)N)OC | C12H14N2O2S
